US07968729B2
At a jacket temperature of 20° C. the reactor was charged with (R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethanol (4.23 kg; 1.1 equiv.) and dioxane (52 L; 10 volumes). At 80° C. jacket temperature and reduced pressure (160-150 mbar; corresponding inner temperature: 52-53° C.) 2.5 volumes of dioxane (13 L) were removed by distillation to remove moisture. The solution was cooled to 20° C. Cesium carbonate (6.52 kg; 1.5 equiv.) was added, and the mixture was heated to 95° C. (S)-3-(4-(2-Amino-6-chloropyrimidin-4-yl)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid (6.95 kg; 1.0 equiv.) was added carefully in portions. The mixture was heated to 101° C. for 2 hours. After cooling to 95° C., additional cesium carbonate (8.65 kg; 2.0 equiv.) was added. The reaction mixture was heated to 101° C. for 24 hours. Water (39 L; 7.5 volumes) was added and the mixture was quickly cooled to 22° C. Di-t-butyl dicarbonate (289 g; 0.1 equiv.) was added, and the mixture was stirred for 2 hours at 22° C. Toluene (26 L; 5 volumes) was added, and the mixture was stirred for 15 minutes. The layers were separated (product in organic layer). Water (26 L; 5 volumes) was added to the organic layer and the mixture was stirred for 15 minutes. The layers were separated (product in aqueous layer). The pH of the aqueous layer was adjusted to about 7.0 by addition of HCl 5 N (2 L). Ethyl acetate (26 L; 5 volumes) was added and the pH was adjusted to 4.0 by addition of HCl 5 N (2 L). The layers were separated. The aqueous layer was extracted with ethyl acetate (26 L; 5 volumes). The combined organic layers were washed with brine (26 L; 5 volumes). The organic layer was concentrated at 65° C. jacket temperature and reduced pressure (230-95 mbar; keeping inner temperature below 40° C.) to 3 vol. Ethanol (31.5 L; 6 volumes) was added and distilled at 65° C. jacket temperature and reduced pressure (110-100 mbar; keeping inner temperature below 40° C.) was continued. 5.5 volumes of solvent were removed by distillation. Ethanol (44 L; 8.5 volumes) was added and distillation at 65° C. jacket temperature and reduced pressure (110-100 mbar; keeping inner temperature below 40° C.) was continued to remove 6.5 volumes of solvent. (S)-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid was obtained as an ethanol solution.

reactant | (R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethanol | 4.23 kg, 1.1 equiv. | ClC1=CC(=C(C=C1)[C@H](C(F)(F)F)O)N1N=C(C=C1)C | C12H10ClF3N2O
reactant | Cesium carbonate | 6.52 kg, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(4-(2-Amino-6-chloropyrimidin-4-yl)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid | 6.95 kg, 1.0 equiv. | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)Cl | C18H21ClN4O4
reactant | cesium carbonate | 8.65 kg, 2.0 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Di-t-butyl dicarbonate | 289 g, 0.1 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | Toluene | 26 L | C1(=CC=CC=C1)C | C7H8
solvent | Water | 39 L | O | H2O
solvent | dioxane | 52 L | O1CCOCC1 | C4H8O2
product | (S)-3-(4-(2-amino-6-((R)-1-(4-chloro-2-(3-methyl-1H-pyrazol-1-yl)phenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@@H](C(F)(F)F)C1=C(C=C(C=C1)Cl)N1N=C(C=C1)C | C30H30ClF3N6O5
